US08124617B2
2-[5-(benzyloxy)-2-isopropoxyphenyl]-5-(chloromethyl)-3H-imidazo[4,5-b]pyridine
A solution of {2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridin-5-yl}methanol (0.11 g) and thionyl chloride (0.1 g) in chloroform (10 ml) was heated under reflux for 3 hr. The reaction mixture was concentrated, and saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated to give the title compound (0.11 g, yield 96%) as colorless crystals. purity 85%. M+H: 408. 1H NMR (CDCl3) δ: 1.51 (6H, d, J=6.0 Hz), 3.97-4.15 (2H, m), 4.72-4.81 (1H, m), 5.16 (2H, s), 7.00-7.06 (1H, m), 7.07-7.12 (1H, m), 7.31-7.51 (6H, m), 8.07 (1H, d, J=7.9 Hz), 8.20 (1H, s).

reactant | {2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridin-5-yl}methanol | 0.11 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=NC(=CC2)CO)N1)OC(C)C | C23H23N3O3
reactant | thionyl chloride | 0.1 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[5-(benzyloxy)-2-isopropoxyphenyl]-5-(chloromethyl)-3H-imidazo[4,5-b]pyridine | 0.11 g, yield 96% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=NC(=CC2)CCl)N1)OC(C)C | C23H22ClN3O2
